US08802664B2
To a solution of 2-[(3-Bromophenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole (208 mg) in N,N-dimethylformamide (1 mL) are added pyrazole (68 mg), cesium carbonate (401 mg) and copper(I) iodide (19 mg). The tube is evacuated, filled with argon and sealed. After stirring at 120° C. for 48 h, the mixture is diluted with water and ammonia solution then extracted with ethyl acetate. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 100/0/0 to 95/5/0.5). The residue is added to a solution of oxalic acid (1 molar equivalent) and the residual precipitate is filtered and dried to afford 2-[(1-methylpiperidin-4-yloxy)(3-pyrazol-1-ylphenyl)methyl]benzothiazole oxalate melting at 89° C.

reactant | 2-[(3-Bromophenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole | 208 mg | BrC=1C=C(C=CC1)C(C=1SC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C20H21BrN2OS
reactant | pyrazole | 68 mg | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 401 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 19 mg | [Cu]I
product | 2-[(1-methylpiperidin-4-yloxy)(3-pyrazol-1-ylphenyl)methyl]benzothiazole oxalate | C(C(=O)O)(=O)O.CN1CCC(CC1)OC(C=1SC2=C(N1)C=CC=C2)C2=CC(=CC=C2)N2N=CC=C2 | InChI=1S/C23H24N4OS.C2H2O4/c1-26-14-10-19(11-15-26)28-22(23-25-20-8-2-3-9-21(20)29-23)17-6-4-7-18(16-17)27-13-5-12-24-27;3-1(4)2(5)6/h2-9,12-13,16,19,22H,10-11,14-15H2,1H3;(H,3,4)(H,5,6)
